US09446040B2
To a solution of tert-butyl[4-(2-ethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-ylcarbamate in chloroform was added p-toluene sulfonyl chloride (1.2 eq.) followed by aq.ammonium hydroxide solution. The resulting reaction mixture was stirred at room temperature for overnight. Reaction mixture was washed with saturated sodium bicarbonate solution. Organic layer separated, dried over anhydrous sodium sulphate and concentrated under reduced pressure to yield sticky solid, which was then purified using silica gel column chromatography to afford tert-butyl[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-ylcarbamate.

reactant | tert-butyl[4-(2-ethyl-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-ylcarbamate | C(C)(C)(C)OC(N(C1CCOCC1)CCCCN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])CC)=O | C26H36N4O4
reactant | p-toluene sulfonyl chloride | 1.2 eq. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl[4-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]tetrahydro-2H-pyran-4-ylcarbamate | C(C)(C)(C)OC(N(C1CCOCC1)CCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC)=O | C26H37N5O3
